US07932262B2
To 7-bromo-2,5-dichloro-8-methoxyquinazoline (1 eq) was added (4-aminophenyl) (morpholino)methanone (1 eq) in isopropanol and the mixture was heated to 90° C. for 16 h. The solid formed was filtered to give (4-(7-bromo-5-chloro-8-methoxyquinazolin-2-ylamino)phenyl) (morpholino)methanone and was confirmed by LC/MS. ES/MS m/z 478 (MH+).

reactant | 7-bromo-2,5-dichloro-8-methoxyquinazoline | 1 eq | BrC1=CC(=C2C=NC(=NC2=C1OC)Cl)Cl | C9H5BrCl2N2O
reactant | (4-aminophenyl) (morpholino)methanone | 1 eq | NC1=CC=C(C=C1)C(=O)N1CCOCC1 | C11H14N2O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | (4-(7-bromo-5-chloro-8-methoxyquinazolin-2-ylamino)phenyl) (morpholino)methanone | BrC1=CC(=C2C=NC(=NC2=C1OC)NC1=CC=C(C=C1)C(=O)N1CCOCC1)Cl | C20H18BrClN4O3
